US04871771
(a) 2-Undecyloxy-5-bromo benzaldehyde
5-Bromosalicylaldehyde (1.51 g, 7.5 mm) was dissolved in dry DMF and treated with sodium hydride (0.4 g, 8.3 mm, 50% dispersion). After stirring for 20 minutes, a solution of 1-bromo-undecane in DMF was added dropwise. The reaction was heated to 50°-65° C. overnight with stirring. The reaction was then poured into ice water, the pH was adjusted to 8.0 with K2CO3 and the mixture was extracted with diethylether. The organic extracts were washed with water, dried over MgSO4 and filtered. The solvent was evaporated to yield an oil which solidifies upon standing.

reactant | 5-Bromosalicylaldehyde | 1.51 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 1-bromo-undecane | BrCCCCCCCCCCC | C11H23Br
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Undecyloxy-5-bromo benzaldehyde | C(CCCCCCCCCC)OC1=C(C=O)C=C(C=C1)Br | C18H27BrO2
